US05631257
A 100 mg portion of 6-methoxy-2-mercaptobenzoxazole and 172 mg of phosphorus pentachloride were dissolved in 35 ml of chlorobenzene to carry out 8 hours of heating under reflux. The reaction solution was poured into 300 ml of ice water and extracted three times with 100 ml of dichloromethane. The resulting organic layers were combined, dehydrated with sodium sulfate, concentrated under a reduced pressure and then purified by a silica gel column chromatography (n-hexane:chloroform=1:1), to obtain 79 mg of 2-chloro-6-methoxybenzoxazole.

reactant | 6-methoxy-2-mercaptobenzoxazole | COC1=CC2=C(N=C(O2)S)C=C1 | C8H7NO2S
reactant | phosphorus pentachloride | 172 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chlorobenzene | 35 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-chloro-6-methoxybenzoxazole | 79 mg | ClC=1OC2=C(N1)C=CC(=C2)OC | C8H6ClNO2
